US04876349
378 g of [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]triphenylphosphonium bromide were suspended in 4 l of butylene oxide. After the addition of 51 ml of 4-pyridinecarbaldehyde the mixture was boiled at reflux for 1.5 hours. After cooling the majority of the solvent was evaporated in a water-jet vacuum, the residue was poured into 1.5 l of a methanol/water mixture (ratio 6:4) and extracted repeatedly with hexane. The organic phase was washed three times with water and, after drying over sodium sulphate, evaporated. After flash chromatography (eluting agent hexane/ether=2:1) and recrystallization from hexane there were obtained 216 g of 4-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]pyridine in colorless crystals, melting point 84°-85°.

reactant | [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethyl]triphenylphosphonium bromide | 378 g | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-pyridinecarbaldehyde | 51 ml | N1=CC=C(C=C1)C=O | C6H5NO
solvent | butylene oxide | 4 l | C1CCCO1 | C4H8O
product | 4-[(E)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propenyl]pyridine | 216 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C1=CC=NC=C1)/C)C | C22H27N
